US07659297B2
2-Amino-5-{[4,4-dimethyl-6-fluoro-2-hydroxy-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-8-fluoro-quinoline
Analogously to Example 10, a mixture of the corresponding imines is produced starting from 237 g of 4-(3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 137 mg of a mixture that consists of 5-amino-8-fluoroquinolin-2(1H)-one and 2,5-diamino-8-fluoroquinoline. Analogously to Example 3, the mixture of imines with 2.5 ml of titanium tetrachloride solution (1 M in dichloromethane) is reacted, and the two title compounds are obtained after chromatography on silica gel.

reactant | 4-(3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 237 g | FC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-amino-8-fluoroquinolin-2(1H)-one | NC1=C2C=CC(NC2=C(C=C1)F)=O | C9H7FN2O
reactant | 2,5-diamino-8-fluoroquinoline | NC1=NC2=C(C=CC(=C2C=C1)N)F | C9H8FN3
catalyst | titanium tetrachloride | 1 M, 2.5 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2-Amino-5-{[4,4-dimethyl-6-fluoro-2-hydroxy-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-8-fluoro-quinoline | NC1=NC2=C(C=CC(=C2C=C1)NC1C(CC(C2=C(C(=CC=C12)F)OC)(C)C)(C(F)(F)F)O)F | C23H22F5N3O2
